US07405232B2
a) methyl 3-[N′-benzyloxycarbonyl-hydrazinocarbonyl)-benzoate
10.80 g (54.4 mmol) methyl 3-chlorocarbonyl-benzoate in 100 mL diethyl ether are added dropwise to a solution of 9.04 g (54.4 mmol) benzyl hydrazinecarboxylate in 100 mL diethyl ether, 100 mL dichloromethane and 4.83 mL pyridine while being cooled with an ice bath. The reaction mixture is stirred overnight at ambient temperature and then combined with water. The precipitated solid is filtered off and washed with diethyl ether. White solid.

reactant | methyl 3-chlorocarbonyl-benzoate | 54.4 mmol, 10.80 g | ClC(=O)C=1C=C(C(=O)OC)C=CC1 | C9H7ClO3
reactant | benzyl hydrazinecarboxylate | 54.4 mmol, 9.04 g | N(N)C(=O)OCC1=CC=CC=C1 | C8H10N2O2
reactant | water | O | H2O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | pyridine | 4.83 mL | N1=CC=CC=C1 | C5H5N
product | methyl 3-[N′-benzyloxycarbonyl-hydrazinocarbonyl)-benzoate | C(C1=CC=CC=C1)OC(=O)NNC(=O)C=1C=C(C(=O)OC)C=CC1 | C17H16N2O5
